US05026702
N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-hydroxy-2-(6-chloro-pyridin-2-yl)-ethanamine
21.2 g (0.122 mol) of 2-hydroxy-2-(6-chloro-pyridin-2-yl)-ethanamine and 21 g (0.108 mol) of 1-(4-(2-hydroxyethoxy)-phenyl)-propan-2-one are dissolved in 500 ml of absolute methanol, mixed with 7.3 g (0.122 mol) of acetic acid and 7.2 g (0.114 mol) of sodium cyanoborohydride and stirred overnight at ambient temperature. Then 300 ml of methanol are distilled off in vacuo, diluted with 400 ml of water, acidified with hydrochloric acid and then extracted three times with 250 ml of methylene chloride. The aqueous phase is then made alkaline with ammonia and extracted with methylene chloride. The organic phase obtained is dried over sodium sulphate and concentrated by evaporation, and the oil obtained initially crystallises out after a short time.

reactant | 2-hydroxy-2-(6-chloro-pyridin-2-yl)-ethanamine | 0.122 mol, 21.2 g | OC(CN)C1=NC(=CC=C1)Cl | C7H9ClN2O
reactant | 1-(4-(2-hydroxyethoxy)-phenyl)-propan-2-one | 0.108 mol, 21 g | OCCOC1=CC=C(C=C1)CC(C)=O | C11H14O3
reactant | acetic acid | 0.122 mol, 7.3 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.114 mol, 7.2 g | C(#N)[BH3-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-hydroxy-2-(6-chloro-pyridin-2-yl)-ethanamine | OCCOC1=CC=C(C=C1)CC(C)NCC(C1=NC(=CC=C1)Cl)O | C18H23ClN2O3
